US07144908B2
i) N-[1-(3-Iodobenzyl)-2,5-dioxoimidazolidin-4-yl]urea
Allantoin (1.58 g) was stirred with meta-iodobenzyl bromide (2.97 g) in DMF (25 ml) at 21° under nitrogen and sodium hydride (60% oil dispersion; 0.40 g) was added over 5 min. After 2 h the solution was partitioned between EtOAc and water and hydrochloric acid was added to give pH 3. The separated aqueous layer was extracted with more EtOAc and the combined organic layers were washed with water and brine twice. After drying (MgSO4), the solution was concentrated to 20 ml. After 1 h the solid was collected by filtration and washed with EtOAc. The residue was boiled with EtOAc (50 ml) and the slurry was allowed to cool. The solid was collected by filtration, washed with ethyl acetate and dried to give the title compound (0.507 g). LCMS RT=2.44 min

reactant | Allantoin | 1.58 g | C1(C(=O)NC(=O)N1)NC(=O)N | C4H6N4O3
reactant | meta-iodobenzyl bromide | 2.97 g | IC=1C=C(CBr)C=CC1 | C7H6BrI
reactant | sodium hydride | 0.40 g | [H-].[Na+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-[1-(3-Iodobenzyl)-2,5-dioxoimidazolidin-4-yl]urea | 0.507 g | IC=1C=C(CN2C(NC(C2=O)NC(=O)N)=O)C=CC1 | C11H11IN4O3
